US04179505
To 2 parts of a solution of 2 parts of thiophene in 40 parts of ethanol, are added 9 parts of 5-{1-chloro-2-[4-(diphenylmethyl)-1-piperazinyl]ethyl}-1-ethyl-2-methyl-1H-benzimidazole trihydrochloride and 240 parts of methanol. The whole is hydrogenated at normal pressure and at room temperature with 4 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is taken up in 100 parts of water and the whole is alkalized with ammonium hydroxide. The product is extracted twice with dichloromethane. The combined extracts are dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2-propanol. The product is filtered off and dried, yielding 2.4 parts (35.5%) of 5-{2-[4 -(diphenylmethyl)-1-piperazinyl]ethyl}-1-ethyl-2-methyl-1H-benzimidazole monohydrate; mp. 95°-105° C.

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | ethanol | C(C)O | C2H6O
reactant | 5-{1-chloro-2-[4-(diphenylmethyl)-1-piperazinyl]ethyl}-1-ethyl-2-methyl-1H-benzimidazole trihydrochloride | Cl.Cl.Cl.ClC(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=C(N(C(=N2)C)CC)C=C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 5-{2-[4 -(diphenylmethyl)-1-piperazinyl]ethyl}-1-ethyl-2-methyl-1H-benzimidazole monohydrate | 35.5% | O.C1(=CC=CC=C1)C(N1CCN(CC1)CCC1=CC2=C(N(C(=N2)C)CC)C=C1)C1=CC=CC=C1 | InChI=1S/C29H34N4.H2O/c1-3-33-23(2)30-27-22-24(14-15-28(27)33)16-17-31-18-20-32(21-19-31)29(25-10-6-4-7-11-25)26-12-8-5-9-13-26;/h4-15,22,29H,3,16-21H2,1-2H3;1H2
